Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abnormal Labs, Anemia 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of alopecia areata and "granuloma vasculitis"
diagnosed at ___, referred from ___ office for abnormal
CBC. Reporting weeks of general malaise, fatigue, night sweats,
lymphadenopathy, swollen tongue. Went to ___ office for these
symptoms and had Hgb 7 from 13 when last checked ___ years ago. He
also reports mouth feeling very warm and needing to eat ice. No
bleeding or easy bruising that he's noticed. No abdominal
symptoms, bloating, fullness. No confusion. He was checked for
HIV 2 days ago and negative. No cough, no TB exposures, has lost
2 lbs in last few months. 

Exam in ED notable for multiple small, rubbery LNs palpated in L
cervical, bilateral axillary, bilateral inguinal regions.
Estimated 2 cm LNs palpated in submandibular region. tongue 
looks
large but not beefy red or otherwise discolored. round lesion on
bottom lip. alopecia. no hepatosplenomegaly, no bruises, no ___
edema, RRR.
 
Vitals in ED notable initially for fever to 100.7 and 
tachycardia
to 105. Defervesced and remained afebrile without intervention
and HR normalized. He received 1u pRBCs

Labs in the ED notable for:
WBC 11.3, Hgb 7.3 -> 8.8, Hct 26.4 Plt 561
Iron ___
Ferritin 8.6

CXR without evidence of pneumonia
 
On the floor patient reports that he is currently feeling well
without any complaints. He notes that for the last ___ weeks at
home he has had drenching night sweats that have occasionally be
so extensive that his wife has awoken wet. He also notes that
over the past few months he has felt increasingly cold 
especially
in comparison to his family in their home. He reports wearing
multiple sweaters/layers in what he conceptually knows is a warm
apartment but still feeling extremely cold while everyone else 
at
home is walking around in light clothing. He is unaware of the
details of his autoimmune diagnosis other than that it was at 
one
point called a "granuloma vasculitis" and involved his colon.
This was initially diagnosed as a teenager and he was 
recommended
to start methotrexate. Reports taking two doses and stopping as
he was scared by the potential side effects of the medication.
Has not been on any therapy or had consistent follow up as an
outpatient for this condition since that time. The only other
major change to his health recently is the development of
alopecia around ___ of last year. He was diagnosed around that
time and quickly lost most of the hair on his body. He states
that derm felt this was related to his other autoimmune
conditions and recommended starting tofacitinib which he was 
only
recently approved for and has not yet started.   
 
REVIEW OF SYSTEMS:  
10 point ROS completed and negative except as above

 
Past Medical History:
alopecia areata
"granuloma vasculitis"
 
Social History:
___
Family History:
"Extensive" family history of CAD/MIs, CVAs. Numerous family
members with anemia 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 1244 Temp: 98.1 PO BP: 109/67 R Sitting HR: 82
RR: 18 O2 sat: 100% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain
Score: ___ 
GENERAL: Well appearing young male, alert, interactive, no
apparent distress 
HEENT: NCAT. Diffuse patchy hair loss across scalp. Sclera
anicteric. PERRL, EOMI. Conjunctiva pink, no pallor or cyanosis
of the oral mucosa. 
NECK: Supple, trachea midline, JVP not elevated, single 1cm
mobile lymph node anterior cervical on R
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. NO
increased work of breathing or accessory muscle use. No 
crackles,
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES:WWP, No c/c/e.   
SKIN: No rashes, lesions, bruising 
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 730)
    Temp: 98.0 (Tm 98.8), BP: 110/69 (110-130/64-75), HR: 70
(70-90), RR: 18, O2 sat: 99% (99-100), O2 delivery: Ra  
GENERAL: Cachectic appearing young male, alert, interactive, no 
distress 
HEENT: NCAT. Diffuse patchy hair loss across scalp. Sclera
anicteric. PERRL, EOMI.
NECK: Supple, trachea midline, JVP not elevated, single 1cm
mobile lymph node submandibular
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: CTAB. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: WWP, No c/c/e.   
SKIN: No rashes, lesions, bruising 
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:37PM BLOOD WBC-11.3* RBC-4.25* Hgb-7.3* Hct-26.4* 
MCV-62* MCH-17.2* MCHC-27.7* RDW-18.2* RDWSD-39.0 Plt ___
___ 06:37PM BLOOD Neuts-79.2* Lymphs-13.0* Monos-5.8 
Eos-1.3 Baso-0.3 Im ___ AbsNeut-8.95* AbsLymp-1.47 
AbsMono-0.65 AbsEos-0.15 AbsBaso-0.03
___ 06:37PM BLOOD Hypochr-3+* Anisocy-1+* Poiklo-2+* 
Microcy-3+* Polychr-1+* Spheroc-1+* Ovalocy-1+* Target-1+* Tear 
Dr-1+* Acantho-1+* Ellipto-1+* RBC Mor-SLIDE REVI
___ 06:37PM BLOOD ___ PTT-28.3 ___
___ 06:37PM BLOOD Ret Aut-0.8 Abs Ret-0.04
___ 06:37PM BLOOD Glucose-109* UreaN-18 Creat-0.8 Na-136 
K-4.8 Cl-99 HCO3-26 AnGap-11
___ 06:37PM BLOOD LD(LDH)-187 TotBili-0.2
___ 06:37PM BLOOD Iron-17*
___ 06:37PM BLOOD calTIBC-397 Hapto-339* Ferritn-8.6* 
TRF-305
___ 06:37PM BLOOD TSH-2.8
___ 06:50AM URINE Color-Straw Appear-Hazy* Sp ___
___ 06:50AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD*
___ 06:50AM URINE RBC-1 WBC-3 Bacteri-FEW* Yeast-NONE 
Epi-<1

PERTINENT INTERIM LABS:
=======================

___ 07:29AM BLOOD Albumin-4.1 Calcium-9.6 Phos-4.6* Mg-2.4
___ 05:30PM BLOOD VitB12-875
___ 05:30PM BLOOD ANCA-NEGATIVE B
___ 05:30PM BLOOD RheuFac-14 ___ Titer-1:40* 
CRP-60.3*
___ 05:30PM BLOOD Trep Ab-POS*
___ 07:29AM BLOOD HIV Ab-NEG
___ 07:21AM BLOOD tTG-IgA-3
Test                          Result              Reference 
Range/Units
ANGIOTENSIN-1-CONVERTING      64                  ___ U/L
ENZYME                                            
Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          29  H               < OR = 15 mm/h
___                                        

DISCHARGE LABS:
===============
___ 05:17AM BLOOD WBC-7.6 RBC-4.87 Hgb-8.8* Hct-31.7* 
MCV-65* MCH-18.1* MCHC-27.8* RDW-22.5* RDWSD-44.9 Plt ___
___ 05:17AM BLOOD Glucose-93 UreaN-18 Creat-0.7 Na-142 
K-5.0 Cl-101 HCO3-24 AnGap-17
___ 05:17AM BLOOD Calcium-9.4 Phos-5.1* Mg-2.2

MICROBIOLOGY:
=============
___ 6:50 am URINE      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
 

 
___ 7:00 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.
___ 6:45 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
___ 5:30 pm SEROLOGY/BLOOD

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
      To ensure specificity, specimen’s positive by treponemal 
EIA and
      negative by RPR will be reflexed to the TP-PA (treponemal 
pallidum
      particle agglutination) test, performed at the State 
Laboratory
      Institute, unless the patient had a prior reactive TP-PA 
result. 

   TREPONEMAL ANTIBODY TEST (Preliminary):    SENT TO STATE. 
 
Brief Hospital Course:
SUMMARY:
========
___ with PMHx of idiopathic granulomatous disease (longstanding, 
multi-organ involvement, dx at CHB, see note in summary OMR 
___, alopecia areata, p/w with new anemia, thrombocytosis 
found on outpatient labs in the setting of one month of night 
sweats, and fatigue. Overall the highest concern was for flare 
of his chronic rheumatologic disease vs new infectious, 
rheumatologic, or hematologic cause. He was evaluated by 
rheumatology during admission who felt that most likely this was 
related to his chronic undifferentiated autoimmune condition. He 
had a peripheral blood smear with no atypical appearing cells 
and he had an ultrasound of his cervical/submandibular LNs which 
showed nothing atypical. In terms of other work-up, CRP 60, ___ 
positive 1:40. Otherwise ANCA, RF, B12, TSH WNL. RPR, tTG, ACE 
level pending at d/c. Rheum recommended further work-up as 
outpatient. He was found to be severely iron deficient, most 
likely in the setting of malabsorption with known GI tract 
involvement of his autoimmune disease vs Celiac disease, GI 
bleed (though there was no overt evidence of). Pt received 1u 
PRBC and H/H remained stable over several days. It was 
determined that the remainder of the work-up could be done as an 
outpt. He received 1 dose of IV iron and was sent with PO iron 
to follow up with GI for outpt endoscopy. 

TRANSITIONAL ISSUES:
====================
-New medications: Ferrous sulfate 325mg every other day
-Follow up appointments: PCP, ___, GI
-Follow up labs: CBC within 1 week to ensure anemia not 
worsening, CBC and iron studies in 2 months to ensure improving 
anemia, repletion of iron stores
-Hgb at discharge 8.8, Hct 31.7
[]If anemia worsening on recheck as outpatient he will need to 
be set up for IV iron infusions. Likely x5 days per hematology
[]Would benefit from further GI workup with colonoscopy, EGD to 
evaluate for GI involvement of autoimmune disease, evidence of 
occult bleeding, likelihood for malabsorption as etiology of 
anemia

ACTIVE ISSUES:
===================

# B symptoms
# Lymphadenopathy
# Hx of idiopathic granulomatous diseasee
Patient initially presented with fatigue, drenching night 
sweats, fevers over the last few
weeks. He was found to have new anemia, thrombocytosis, CRP 60 
on admission. Unclear etiology of presentation but overall 
concern was highest for a flare of his known undifferentiated 
rheumatologic disease vs new infectious, rheumatologic, or 
hematologic cause. Rheumatology was consulted and followed while 
patient was admitted. They agreed that most likely his 
presenation was due to an autoimmune condition especially given 
lack of treatment or followup recently. Highest on their 
differential was sarcoidosis vs an inflammatory bowel disease. 
Rheumatologic labs were sent for further workup and were pending 
on discharge. Hematology was asked to review patient's 
peripheral smear given concern for heme malignancy with possible 
B symptoms. Smear was not concerning for malignancy and they 
recommended giving patient a dose of IV iron before discharge 
and then discharging him on oral iron therapy. A CT chest was 
performed revealing only a small pulmonary nodule and an 
ultrasound of mildly enlarged lymph nodes in patient's neck 
revealed no evidence of pathology.

# Fever
Patient presented to ED with T100.7. UA and CXR were without 
signs of infection. Patient denied new sexual partners. Recently 
HIV negative, HCV negative, GC negative, RPR + at 1:1 at ___ 
___ which is
stable from last check and was treated at that time. Overall 
there was lower suspicion for infection as source of symptoms 
during course of admission. Blood and urine cultures were 
without growth at time of discharge.

# Iron deficiency anemia 
# Thrombocytosis
Patient presented with severe iron deficiency based on iron 
studies (Iron 17, Ferritin 8.65 on admission). Also endorsing 
___ swelling. He recieved 1u pRBCs ___. Denied prior 
history of overt GI bleed or melena. Anemia felt to be most 
likely secondary to impaired absorption due to his autoimmune 
disease involving his intestines. Thrombocytosis was felt to be 
most likely cause by his severe iron
deficiency anemia. Patient was given one dose of Ferric 
gluconate 125mg IV before discharge and was sent home with 
ferrous sulfate po 325mg to take every other day. He will need 
GI follow up for possible colonscopy for further evaluation and 
repeat CBC, iron studies to ensure anemia not worsening again. 

# Syncope
Patient endorsed ___ episodes of syncope over last few months. 
Description sounded most like orthostasis. He was monitored on 
telemetry without evidence of arrhythmia during admission. Did 
not have any syncopal or pre-syncopal events during admission.
 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day Disp #*15 Tablet Refills:*0 
2.  Nicotine Patch 14 mg/day TD DAILY 
RX *nicotine 14 mg/24 hour 1 patch to arm once a day Disp #*30 
Patch Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Severe Iron Deficiency Anemia
Concern for systemic inflammatory disorder
Thrombocytosis

SECONDARY DIAGNOSIS
===================
Recurrent Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital because you were found to be 
severely anemic and you had a fever.

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL? 
-You were transfused red blood cells to bring your levels up 
while we worked you up for a cause of your symptoms
-Our rheumatology team evaluated you while you we admitted. They 
felt that your symptoms were most likely related to your 
previously diagnosed autoimmune disease
-We had our blood specialists take a look at your blood to see 
if they could find anything abnormal. They only found changes 
consistent with iron deficiency anemia and recommended that we 
give you iron through your IV while you were in the hospital and 
then send you home with iron pills to take. 

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed below. 
- Show up to your appointments as listed below. You have follow 
up appointments scheduled with your primary care physician's 
office, rheumatology, and GI. 

We wish you the best!  

Sincerely,  

Your ___ Team

 
Followup Instructions:
___